US04333963
Cyanoethoxyethoxyethyl Acrylate
Following the procedures described in Example 1, cyanoethoxyethoxyethanol (bp 144°-151° C./2 mm Hg) is prepared from diethylene glycol and acrylonitrile, acrylation of which gives the desired product.

reactant | cyanoethoxyethoxyethanol | C(#N)CCOCCOC(C)O | C7H13NO3
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | diethylene glycol | C(COCCO)O | C4H10O3
product | Cyanoethoxyethoxyethyl Acrylate | C(C=C)(=O)OCCOCCOCCC#N | C10H15NO4
